US07622466B2
5-Benzyloxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic Acid 1-tert-butyl Ester
To the solution of 0.41 g (1.2 mmol) 5-benzyloxy-2-formyl-pyrrolo[2,3-b]pyridine-1-carboxylic acid tert-butyl ester in 10 ml tert-butanol, 7 ml 2-methyl-2-butene and 20 ml acetonitrile, a mixture consistent of 1.2 g (10.6 mmol; 80%) sodium chlorite and 0.97 g (8.1 mmol) sodium dihydrogen phosphate in 10 ml water was added dropwise. The resulting two-phase mixture was stirred 1.5 h at room temperature. Then the organic components were evaporated at a rotary evaporator and the remaining aqueous phase was extracted three times with dichloromethane. The combined organic layers were washed with 10% aqueous sodium thiosulfate solution and brine, dried over magnesium sulfate, filtered and evaporated. The crude product was purified by flash-chromatography on silica gel with ethyl acetate:n-heptane (1:1 v/v) as eluant to give 0.35 g (74%) of the compound as a yellow foam.

reactant | 5-benzyloxy-2-formyl-pyrrolo[2,3-b]pyridine-1-carboxylic acid tert-butyl ester | 1.2 mmol, 0.41 g | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)OCC2=CC=CC=C2)C=O | C20H20N2O4
reactant | sodium chlorite | 10.6 mmol, 1.2 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate | 8.1 mmol, 0.97 g | P(=O)(O)(O)[O-].[Na+]
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
solvent | 2-methyl-2-butene | 7 ml | CC(C)=CC | C5H10
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
product | 5-Benzyloxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic Acid 1-tert-butyl Ester | 0.35 g, 74% | C(C)(C)(C)OC(=O)N1C(=CC=2C1=NC=C(C2)OCC2=CC=CC=C2)C(=O)O | C20H20N2O5
